US06919362B2
Step A: 6-Nitro-1,3-benzothiazol-2(3H)-one
0.1 mol of benzothiazolinone is dissolved in 100 ml of acetic anhydride and the solution is cooled to −10° C. 10 ml of nitric acid are then added dropwise, and the reaction is stirred for 2 hours. The resulting precipitate is filtered off and washed with water, and then purified by chromatography (eluant CH2Cl2 then AcOEt) to yield the title product, which is recrystallised from ethanol.

reactant | benzothiazolinone | 0.1 mol | S1(C=NC2=C1C=CC=C2)=O | C7H5NOS
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-Nitro-1,3-benzothiazol-2(3H)-one | [N+](=O)([O-])C1=CC2=C(NC(S2)=O)C=C1 | C7H4N2O3S
